US06770637B2
g) N-(3,5-Bis-trifluoromethyl-benzyl)-6-(4-hydroxyacetyl-piperazin-1-yl)-N-methyl-4-o-tolyl-nicotinamide
A mixture of 0.12 g (0.18 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-(4-bromoacetyl-piperazin-1-yl)-N-methyl-4-o-tolyl-nicotinamide, 1.2 ml 1-methyl-2-pyrrolidone and 0.2 ml half-saturated aqueous sodium bicarbonate solution was stirred at 100° C. over night. After cooling to room temperature and dilution with water the mixture was extracted with five portions of tert-butyl methyl ether. The combined organic extracts were dried with sodium sulfate, concentrated and dried in vacuo (0.5 mbar) at 70°. Flash column chromatography afforded 71 mg (64%) of the title compound as a white solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-(4-bromoacetyl-piperazin-1-yl)-N-methyl-4-o-tolyl-nicotinamide | 0.18 mmol, 0.12 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)N2CCN(CC2)C(CBr)=O)=O)C)C=C(C1)C(F)(F)F)(F)F | C29H27BrF6N4O2
reactant | sodium bicarbonate | 0.2 ml | C([O-])(O)=O.[Na+]
solvent | 1-methyl-2-pyrrolidone | 1.2 ml | CN1C(CCC1)=O | C5H9NO
product | N-(3,5-Bis-trifluoromethyl-benzyl)-6-(4-hydroxyacetyl-piperazin-1-yl)-N-methyl-4-o-tolyl-nicotinamide | 71 mg, 64% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)N2CCN(CC2)C(CO)=O)=O)C)C=C(C1)C(F)(F)F)(F)F | C29H28F6N4O3
